US05025024
Preparation of 4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole used as starting material
To a solution of 4-fluoro-2-mercapto-1H-benzimidazole (1.15 g, 0.0068 mol) in methanol (60 ml) NaOH (0.54 g, 0.014 mol) dissolved in water (3 ml) and 4-methoxy-2-chloromethylpyridine hydrochloride 1.32 g, 0.0068 mol) dissolved in methanol (20 ml) were added in the given order. The mixture was refluxed for one hour whereupon the solution was evaporated. The residue was partitioned between methylene chloride and water. After separation the organic solution was dried over MgSO4 and evaporated giving an oil which was purified on silica gel (50 g) using 1% methanol in methylene chloride as eluent. In this way the title compound was obtained (1.35 g, 69%). NMR data for the product is given below.

reactant | 4-fluoro-2-mercapto-1H-benzimidazole | 0.0068 mol, 1.15 g | FC1=CC=CC=2NC(=NC21)S | C7H5FN2S
reactant | 4-methoxy-2-chloromethylpyridine hydrochloride | 0.0068 mol, 1.32 g | Cl.COC1=CC(=NC=C1)CCl
solvent | water | 3 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 0.014 mol, 60 ml, 0.54 g | CO | CH4O
product | 4-fluoro-2-[[(4-methoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | FC1=CC=CC=2NC(=NC21)SCC2=NC=CC(=C2)OC | C14H12FN3OS
